* NGSPICE file created from user_analog_project_wrapper.ext - technology: sky130A

.subckt sky130_fd_pr__nfet_01v8_lvt_5VYM7K a_n66_n598# a_n124_n510# a_66_n510# VSUBS
X0 a_66_n510# a_n66_n598# a_n124_n510# VSUBS sky130_fd_pr__nfet_01v8_lvt ad=1.48 pd=10.8 as=1.48 ps=10.8 w=5.1 l=0.66
.ends

.subckt sky130_fd_pr__pfet_01v8_TRB9BZ a_n389_n186# w_n483_n189# a_n447_n89# a_389_n89#
X0 a_389_n89# a_n389_n186# a_n447_n89# w_n483_n189# sky130_fd_pr__pfet_01v8 ad=0.258 pd=2.36 as=0.258 ps=2.36 w=0.89 l=3.89
.ends

.subckt sky130_fd_pr__pfet_01v8_lvt_8D4JM4 a_n127_n704# w_n221_n707# a_n185_n607#
+ a_127_n607#
X0 a_127_n607# a_n127_n704# a_n185_n607# w_n221_n707# sky130_fd_pr__pfet_01v8_lvt ad=1.76 pd=12.7 as=1.76 ps=12.7 w=6.07 l=1.27
.ends

.subckt sky130_fd_pr__cap_mim_m3_1_4FSB7X c1_n546_n1500# m3_n586_n1540#
X0 c1_n546_n1500# m3_n586_n1540# sky130_fd_pr__cap_mim_m3_1 l=15 w=4
.ends

.subckt sky130_fd_pr__pfet_01v8_lvt_EFQJD4 a_n95_n517# a_37_n517# a_n37_n614# w_n233_n736#
X0 a_37_n517# a_n37_n614# a_n95_n517# w_n233_n736# sky130_fd_pr__pfet_01v8_lvt ad=1.5 pd=10.9 as=1.5 ps=10.9 w=5.17 l=0.37
.ends

.subckt sky130_fd_pr__nfet_01v8_lvt_W6ELF5 a_n143_n1235# a_n201_109# a_143_n1147#
+ a_143_109# a_n143_21# a_n201_n1147# a_n303_n1321#
X0 a_143_n1147# a_n143_n1235# a_n201_n1147# a_n303_n1321# sky130_fd_pr__nfet_01v8_lvt ad=1.51 pd=11 as=1.51 ps=11 w=5.19 l=1.43
X1 a_143_109# a_n143_21# a_n201_109# a_n303_n1321# sky130_fd_pr__nfet_01v8_lvt ad=1.51 pd=11 as=1.51 ps=11 w=5.19 l=1.43
.ends

.subckt ldo Iref SS VB VS OUT DD
Xsky130_fd_pr__nfet_01v8_lvt_5VYM7K_0 Iref Iref SS SS sky130_fd_pr__nfet_01v8_lvt_5VYM7K
Xsky130_fd_pr__nfet_01v8_lvt_5VYM7K_1 SS SS SS SS sky130_fd_pr__nfet_01v8_lvt_5VYM7K
Xsky130_fd_pr__nfet_01v8_lvt_5VYM7K_2 Iref SS m1_9175_n5154# SS sky130_fd_pr__nfet_01v8_lvt_5VYM7K
Xsky130_fd_pr__nfet_01v8_lvt_5VYM7K_3 Iref SS m1_9116_n8088# SS sky130_fd_pr__nfet_01v8_lvt_5VYM7K
Xsky130_fd_pr__nfet_01v8_lvt_5VYM7K_5 Iref SS Iref SS sky130_fd_pr__nfet_01v8_lvt_5VYM7K
Xsky130_fd_pr__nfet_01v8_lvt_5VYM7K_4 Iref SS m1_9116_n8088# SS sky130_fd_pr__nfet_01v8_lvt_5VYM7K
Xsky130_fd_pr__nfet_01v8_lvt_5VYM7K_6 Iref m1_9116_n8088# SS SS sky130_fd_pr__nfet_01v8_lvt_5VYM7K
Xsky130_fd_pr__pfet_01v8_TRB9BZ_0 DD DD DD DD sky130_fd_pr__pfet_01v8_TRB9BZ
Xsky130_fd_pr__nfet_01v8_lvt_5VYM7K_7 Iref m1_9116_n8088# SS SS sky130_fd_pr__nfet_01v8_lvt_5VYM7K
Xsky130_fd_pr__nfet_01v8_lvt_5VYM7K_8 SS SS SS SS sky130_fd_pr__nfet_01v8_lvt_5VYM7K
Xsky130_fd_pr__pfet_01v8_TRB9BZ_2 m1_9175_n5154# DD DD m1_8616_n5605# sky130_fd_pr__pfet_01v8_TRB9BZ
Xsky130_fd_pr__pfet_01v8_TRB9BZ_1 DD DD DD DD sky130_fd_pr__pfet_01v8_TRB9BZ
Xsky130_fd_pr__nfet_01v8_lvt_5VYM7K_9 Iref m1_9175_n5154# SS SS sky130_fd_pr__nfet_01v8_lvt_5VYM7K
Xsky130_fd_pr__pfet_01v8_TRB9BZ_3 m1_9175_n5154# DD DD m1_9175_n5154# sky130_fd_pr__pfet_01v8_TRB9BZ
Xsky130_fd_pr__pfet_01v8_TRB9BZ_4 m1_9175_n5154# DD DD m1_9175_n5154# sky130_fd_pr__pfet_01v8_TRB9BZ
Xsky130_fd_pr__pfet_01v8_TRB9BZ_5 m1_9175_n5154# DD DD m1_8616_n5605# sky130_fd_pr__pfet_01v8_TRB9BZ
Xsky130_fd_pr__pfet_01v8_lvt_8D4JM4_0 VS OUT OUT m1_9116_n8088# sky130_fd_pr__pfet_01v8_lvt_8D4JM4
Xsky130_fd_pr__pfet_01v8_lvt_8D4JM4_1 VS OUT OUT m1_9116_n8088# sky130_fd_pr__pfet_01v8_lvt_8D4JM4
Xsky130_fd_pr__cap_mim_m3_1_4FSB7X_0 m1_8616_n5605# OUT sky130_fd_pr__cap_mim_m3_1_4FSB7X
Xsky130_fd_pr__pfet_01v8_lvt_EFQJD4_0 DD OUT m1_8616_n5605# DD sky130_fd_pr__pfet_01v8_lvt_EFQJD4
Xsky130_fd_pr__nfet_01v8_lvt_W6ELF5_0 VB m1_8616_n5605# m1_9116_n8088# m1_9116_n8088#
+ VB m1_8616_n5605# SS sky130_fd_pr__nfet_01v8_lvt_W6ELF5
.ends

.subckt sky130_fd_pr__nfet_01v8_lvt_62AYNZ a_n158_n550# a_n100_n638# a_100_n550# VSUBS
X0 a_100_n550# a_n100_n638# a_n158_n550# VSUBS sky130_fd_pr__nfet_01v8_lvt ad=1.6 pd=11.6 as=1.6 ps=11.6 w=5.5 l=1
.ends

.subckt sky130_fd_pr__nfet_01v8_lvt_P9XYHJ a_80_n550# a_n138_n550# a_n80_n638# VSUBS
X0 a_80_n550# a_n80_n638# a_n138_n550# VSUBS sky130_fd_pr__nfet_01v8_lvt ad=1.6 pd=11.6 as=1.6 ps=11.6 w=5.5 l=0.8
.ends

.subckt sky130_fd_pr__pfet_01v8_lvt_G2G9KE a_n138_n100# a_n80_n197# a_80_n100# w_n174_n200#
X0 a_80_n100# a_n80_n197# a_n138_n100# w_n174_n200# sky130_fd_pr__pfet_01v8_lvt ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.8
.ends

.subckt sky130_fd_pr__pfet_01v8_lvt_NCVK88 a_n258_n100# a_n200_n197# a_200_n100# w_n294_n200#
X0 a_200_n100# a_n200_n197# a_n258_n100# w_n294_n200# sky130_fd_pr__pfet_01v8_lvt ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=2
.ends

.subckt sky130_fd_pr__nfet_01v8_lvt_P34KHJ a_40_n550# a_n98_n550# a_n40_n638# VSUBS
X0 a_40_n550# a_n40_n638# a_n98_n550# VSUBS sky130_fd_pr__nfet_01v8_lvt ad=1.6 pd=11.6 as=1.6 ps=11.6 w=5.5 l=0.4
.ends

.subckt mdls_inv a_2701_260# OUT IN DD SS
Xsky130_fd_pr__nfet_01v8_lvt_62AYNZ_1 li_n14_266# IN SS SS sky130_fd_pr__nfet_01v8_lvt_62AYNZ
Xsky130_fd_pr__nfet_01v8_lvt_62AYNZ_0 li_n14_266# IN SS SS sky130_fd_pr__nfet_01v8_lvt_62AYNZ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_4 OUT li_n14_266# IN SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_5 OUT li_n14_266# IN SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_6 OUT li_n14_266# IN SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_7 OUT li_n14_266# IN SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__pfet_01v8_lvt_G2G9KE_0 m1_2309_1084# IN OUT DD sky130_fd_pr__pfet_01v8_lvt_G2G9KE
Xsky130_fd_pr__pfet_01v8_lvt_G2G9KE_1 li_n14_266# OUT SS DD sky130_fd_pr__pfet_01v8_lvt_G2G9KE
Xsky130_fd_pr__pfet_01v8_lvt_NCVK88_0 m1_2309_1084# IN DD DD sky130_fd_pr__pfet_01v8_lvt_NCVK88
Xsky130_fd_pr__nfet_01v8_lvt_P34KHJ_0 m1_2309_1084# DD OUT SS sky130_fd_pr__nfet_01v8_lvt_P34KHJ
Xsky130_fd_pr__nfet_01v8_lvt_P34KHJ_1 m1_2309_1084# DD OUT SS sky130_fd_pr__nfet_01v8_lvt_P34KHJ
.ends

.subckt ring_100mV_buffer OUT IN DD SS
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_28 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_29 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_0 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_17 SS li_8388_n2876# IN SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_18 SS li_8388_n2876# IN SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_1 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_19 SS li_8388_n2876# IN SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_2 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_3 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_4 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_5 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_6 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_7 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_8 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__pfet_01v8_lvt_G2G9KE_0 li_8388_n2876# IN DD DD sky130_fd_pr__pfet_01v8_lvt_G2G9KE
Xsky130_fd_pr__pfet_01v8_lvt_G2G9KE_1 DD IN li_8388_n2876# DD sky130_fd_pr__pfet_01v8_lvt_G2G9KE
Xsky130_fd_pr__pfet_01v8_lvt_G2G9KE_2 DD li_8388_n2876# OUT DD sky130_fd_pr__pfet_01v8_lvt_G2G9KE
Xsky130_fd_pr__pfet_01v8_lvt_G2G9KE_3 OUT li_8388_n2876# DD DD sky130_fd_pr__pfet_01v8_lvt_G2G9KE
Xsky130_fd_pr__pfet_01v8_lvt_G2G9KE_4 OUT li_8388_n2876# DD DD sky130_fd_pr__pfet_01v8_lvt_G2G9KE
Xsky130_fd_pr__pfet_01v8_lvt_G2G9KE_5 DD li_8388_n2876# OUT DD sky130_fd_pr__pfet_01v8_lvt_G2G9KE
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_30 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_31 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_20 SS li_8388_n2876# IN SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_21 SS li_8388_n2876# IN SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_22 SS li_8388_n2876# IN SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_23 SS li_8388_n2876# IN SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_25 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_26 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_27 OUT SS li_8388_n2876# SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
Xsky130_fd_pr__nfet_01v8_lvt_P9XYHJ_16 SS li_8388_n2876# IN SS sky130_fd_pr__nfet_01v8_lvt_P9XYHJ
.ends

.subckt ring_100mV SS DD ring_100mV_buffer_0/OUT
Xmdls_inv_0 SS mdls_inv_1/IN mdls_inv_0/IN DD SS mdls_inv
Xmdls_inv_1 SS mdls_inv_8/IN mdls_inv_1/IN DD SS mdls_inv
Xmdls_inv_2 SS mdls_inv_5/IN mdls_inv_3/IN DD SS mdls_inv
Xmdls_inv_3 SS mdls_inv_3/OUT mdls_inv_3/IN DD SS mdls_inv
Xmdls_inv_4 SS mdls_inv_3/IN mdls_inv_4/IN DD SS mdls_inv
Xmdls_inv_5 SS mdls_inv_7/IN mdls_inv_5/IN DD SS mdls_inv
Xmdls_inv_6 SS mdls_inv_4/IN mdls_inv_6/IN DD SS mdls_inv
Xmdls_inv_7 SS mdls_inv_9/IN mdls_inv_7/IN DD SS mdls_inv
Xmdls_inv_9 SS mdls_inv_0/IN mdls_inv_9/IN DD SS mdls_inv
Xmdls_inv_8 SS mdls_inv_6/IN mdls_inv_8/IN DD SS mdls_inv
Xring_100mV_buffer_0 ring_100mV_buffer_0/OUT mdls_inv_3/OUT DD SS ring_100mV_buffer
.ends

.subckt sky130_fd_pr__nfet_01v8_lvt_4HNDKD a_n500_n188# a_n660_n274# a_500_n100# a_n558_n100#
X0 a_500_n100# a_n500_n188# a_n558_n100# a_n660_n274# sky130_fd_pr__nfet_01v8_lvt ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=5
.ends

.subckt sky130_fd_pr__nfet_01v8_lvt_C9VRMX a_n158_n250# a_n100_n338# a_100_n250# VSUBS
X0 a_100_n250# a_n100_n338# a_n158_n250# VSUBS sky130_fd_pr__nfet_01v8_lvt ad=0.725 pd=5.58 as=0.725 ps=5.58 w=2.5 l=1
.ends

.subckt iref_2nA_igenerator Ip2 Ip1 Vg VCTAT SS
Xsky130_fd_pr__nfet_01v8_lvt_4HNDKD_0 VCTAT SS SS li_5063_n2421# sky130_fd_pr__nfet_01v8_lvt_4HNDKD
Xsky130_fd_pr__nfet_01v8_lvt_C9VRMX_0 Ip2 Vg SS SS sky130_fd_pr__nfet_01v8_lvt_C9VRMX
Xsky130_fd_pr__nfet_01v8_lvt_C9VRMX_1 SS SS SS SS sky130_fd_pr__nfet_01v8_lvt_C9VRMX
Xsky130_fd_pr__nfet_01v8_lvt_C9VRMX_3 Ip1 Vg li_5063_n2421# SS sky130_fd_pr__nfet_01v8_lvt_C9VRMX
Xsky130_fd_pr__nfet_01v8_lvt_C9VRMX_4 Ip1 Vg li_5063_n2421# SS sky130_fd_pr__nfet_01v8_lvt_C9VRMX
Xsky130_fd_pr__nfet_01v8_lvt_C9VRMX_6 Ip2 Vg SS SS sky130_fd_pr__nfet_01v8_lvt_C9VRMX
Xsky130_fd_pr__nfet_01v8_lvt_C9VRMX_7 SS SS SS SS sky130_fd_pr__nfet_01v8_lvt_C9VRMX
.ends

.subckt sky130_fd_pr__pfet_01v8_lvt_NTRJ8S a_200_n250# w_n294_n350# a_n200_n347# a_n258_n250#
X0 a_200_n250# a_n200_n347# a_n258_n250# w_n294_n350# sky130_fd_pr__pfet_01v8_lvt ad=0.725 pd=5.58 as=0.725 ps=5.58 w=2.5 l=2
.ends

.subckt sky130_fd_pr__pfet_01v8_lvt_WCVK8S a_n200_n147# a_n258_n50# a_200_n50# w_n294_n150#
X0 a_200_n50# a_n200_n147# a_n258_n50# w_n294_n150# sky130_fd_pr__pfet_01v8_lvt ad=0.145 pd=1.58 as=0.145 ps=1.58 w=0.5 l=2
.ends

.subckt iref_2nA_mirrors Iref Ip2 Ip1 Vg DD SS
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_7 li_395_966# DD Ip1 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_6 li_1196_964# DD Ip1 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_8 m1_373_2671# DD Ip2 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_9 m1_373_2671# DD Ip2 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_40 m1_792_538# DD m1_792_538# m1_9767_755# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_30 m1_373_2671# DD Ip2 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_31 Ip2 DD m1_792_538# m1_373_2671# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_20 Iref DD m1_792_538# li_5100_2660# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_42 m1_9767_755# DD m1_9767_755# DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_41 m1_792_538# DD m1_792_538# m1_9767_755# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_WCVK8S_0 DD DD DD DD sky130_fd_pr__pfet_01v8_lvt_WCVK8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_10 li_5100_2660# DD Ip2 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_21 li_452_n361# DD m1_792_538# li_4299_2662# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_32 Ip2 DD m1_792_538# m1_373_2671# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_43 m1_9767_755# DD m1_9767_755# DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_WCVK8S_1 DD DD DD DD sky130_fd_pr__pfet_01v8_lvt_WCVK8S
Xsky130_fd_pr__pfet_01v8_lvt_WCVK8S_2 DD DD DD DD sky130_fd_pr__pfet_01v8_lvt_WCVK8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_22 li_5100_2660# DD Ip2 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_11 li_4299_2662# DD Ip2 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_33 m1_373_2671# DD Ip2 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_WCVK8S_3 DD DD DD DD sky130_fd_pr__pfet_01v8_lvt_WCVK8S
Xsky130_fd_pr__nfet_01v8_lvt_C9VRMX_10 m1_792_538# li_452_n361# SS SS sky130_fd_pr__nfet_01v8_lvt_C9VRMX
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_23 li_4299_2662# DD Ip2 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_34 Ip2 DD m1_792_538# m1_373_2671# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_12 Ip2 DD m1_792_538# m1_373_2671# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_WCVK8S_4 DD DD DD DD sky130_fd_pr__pfet_01v8_lvt_WCVK8S
Xsky130_fd_pr__nfet_01v8_lvt_C9VRMX_11 li_452_n361# li_452_n361# SS SS sky130_fd_pr__nfet_01v8_lvt_C9VRMX
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_35 m1_373_2671# DD Ip2 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_WCVK8S_5 DD DD DD DD sky130_fd_pr__pfet_01v8_lvt_WCVK8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_13 Ip2 DD m1_792_538# m1_373_2671# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__nfet_01v8_lvt_C9VRMX_12 li_452_n361# li_452_n361# SS SS sky130_fd_pr__nfet_01v8_lvt_C9VRMX
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_36 m1_373_2671# DD Ip2 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_WCVK8S_6 DD DD DD DD sky130_fd_pr__pfet_01v8_lvt_WCVK8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_14 Iref DD m1_792_538# li_5100_2660# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__nfet_01v8_lvt_C9VRMX_13 m1_792_538# li_452_n361# SS SS sky130_fd_pr__nfet_01v8_lvt_C9VRMX
Xsky130_fd_pr__pfet_01v8_lvt_WCVK8S_7 DD DD DD DD sky130_fd_pr__pfet_01v8_lvt_WCVK8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_37 Ip2 DD m1_792_538# m1_373_2671# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_26 Ip2 DD m1_792_538# m1_373_2671# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_15 li_452_n361# DD m1_792_538# li_4299_2662# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__nfet_01v8_lvt_C9VRMX_14 Vg li_452_n361# SS SS sky130_fd_pr__nfet_01v8_lvt_C9VRMX
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_27 m1_373_2671# DD Ip2 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_16 m1_373_2671# DD Ip2 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_38 Ip2 DD m1_792_538# m1_373_2671# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__nfet_01v8_lvt_C9VRMX_15 SS SS SS SS sky130_fd_pr__nfet_01v8_lvt_C9VRMX
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_39 m1_373_2671# DD Ip2 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_18 Ip2 DD m1_792_538# m1_373_2671# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_17 Ip2 DD m1_792_538# m1_373_2671# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__nfet_01v8_lvt_C9VRMX_8 SS SS SS SS sky130_fd_pr__nfet_01v8_lvt_C9VRMX
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_19 m1_373_2671# DD Ip2 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__nfet_01v8_lvt_C9VRMX_9 Vg li_452_n361# SS SS sky130_fd_pr__nfet_01v8_lvt_C9VRMX
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_0 Ip1 DD m1_792_538# li_395_966# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_1 Vg DD m1_792_538# li_1196_964# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_2 Vg DD m1_792_538# li_1196_964# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_3 Ip1 DD m1_792_538# li_395_966# sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_4 li_395_966# DD Ip1 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
Xsky130_fd_pr__pfet_01v8_lvt_NTRJ8S_5 li_1196_964# DD Ip1 DD sky130_fd_pr__pfet_01v8_lvt_NTRJ8S
.ends

.subckt iref_2nA_vref SS VREF DD
X0 VREF SS SS VREF sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
X1 DD a_n1179_n2108# w_297_n2846# DD sky130_fd_pr__pfet_01v8 ad=0.687 pd=5.32 as=0.687 ps=5.32 w=2.37 l=4.38
X2 VREF SS SS VREF sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
X3 DD DD a_n1179_n2108# DD sky130_fd_pr__pfet_01v8_lvt ad=0.145 pd=1.58 as=0.145 ps=1.58 w=0.5 l=4
X4 a_n1179_n2108# w_297_n2846# VREF DD sky130_fd_pr__pfet_01v8_lvt ad=0.995 pd=7.44 as=0.995 ps=7.44 w=3.43 l=2.77
X5 VREF SS SS VREF sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
X6 w_297_n2846# w_297_n2846# SS w_297_n2846# sky130_fd_pr__pfet_01v8_lvt ad=0.255 pd=2.34 as=0.255 ps=2.34 w=0.88 l=6.97
X7 VREF SS SS VREF sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
.ends

.subckt iref_2nA DD IREF SS
Xiref_2nA_igenerator_0 iref_2nA_mirrors_0/Ip2 iref_2nA_mirrors_0/Ip1 iref_2nA_mirrors_0/Vg
+ iref_2nA_vref_0/VREF SS iref_2nA_igenerator
Xiref_2nA_mirrors_0 IREF iref_2nA_mirrors_0/Ip2 iref_2nA_mirrors_0/Ip1 iref_2nA_mirrors_0/Vg
+ DD SS iref_2nA_mirrors
Xiref_2nA_vref_0 SS iref_2nA_vref_0/VREF DD iref_2nA_vref
.ends

.subckt vref01 VREF DD SS
X0 SS a_n354_1346# VREF SS sky130_fd_pr__nfet_01v8 ad=0.238 pd=2.22 as=0.238 ps=2.22 w=0.82 l=1.05
X1 DD a_n354_1346# a_n354_1346# SS sky130_fd_pr__nfet_01v8_lvt ad=1.74 pd=12.6 as=1.74 ps=12.6 w=6 l=0.89
X2 VREF a_n354_1346# a_n354_1346# SS sky130_fd_pr__nfet_01v8_lvt ad=0.499 pd=4.02 as=0.499 ps=4.02 w=1.72 l=3.1
X3 VREF VREF VREF DD sky130_fd_pr__pfet_01v8_lvt ad=17.2 pd=38.4 as=8.6 ps=19.2 w=8.6 l=0.35
X4 DD a_n354_1346# a_n354_1346# SS sky130_fd_pr__nfet_01v8_lvt ad=1.74 pd=12.6 as=1.74 ps=12.6 w=6 l=0.89
.ends

.subckt pmu_circuits ldo_iref ldo_vs ring_out iref dd_02 dd_01 ldo_vb ldo_out vref
+ ss
Xldo_0 ldo_iref ss ldo_vb ldo_vs ldo_out dd_01 ldo
Xring_100mV_0 ss dd_02 ring_out ring_100mV
Xiref_2nA_0 dd_01 iref ss iref_2nA
Xvref01_0 vref dd_01 ss vref01
.ends

.subckt user_analog_proj_example pmu_circuits_0/iref pmu_circuits_0/dd_02 pmu_circuits_0/dd_01
+ pmu_circuits_0/ldo_vb pmu_circuits_0/ldo_iref pmu_circuits_0/ring_out pmu_circuits_0/ldo_vs
+ pmu_circuits_0/ldo_out VSUBS pmu_circuits_0/vref
Xpmu_circuits_0 pmu_circuits_0/ldo_iref pmu_circuits_0/ldo_vs pmu_circuits_0/ring_out
+ pmu_circuits_0/iref pmu_circuits_0/dd_02 pmu_circuits_0/dd_01 pmu_circuits_0/ldo_vb
+ pmu_circuits_0/ldo_out pmu_circuits_0/vref VSUBS pmu_circuits
.ends

Xuser_analog_proj_example_0 io_out[11] vdda1 vccd1 io_out[12] gpio_analog[7] gpio_analog[3]
+ io_out[16] io_out[15] vssa1 io_out[11] user_analog_proj_example
R0 io_oeb[15] vssd1 sky130_fd_pr__res_generic_m3 w=0.56 l=0.6
R1 io_analog[4] io_clamp_high[0] sky130_fd_pr__res_generic_m3 w=11 l=0.25
R2 vssd1 io_oeb[11] sky130_fd_pr__res_generic_m3 w=0.56 l=0.58
R3 vssa1 io_clamp_low[1] sky130_fd_pr__res_generic_m3 w=11 l=0.25
R4 io_oeb[16] vssd1 sky130_fd_pr__res_generic_m3 w=0.56 l=0.31
R5 vssa1 io_clamp_low[0] sky130_fd_pr__res_generic_m3 w=11 l=0.25
R6 vssd1 io_oeb[12] sky130_fd_pr__res_generic_m3 w=0.56 l=0.49
R7 vssa1 io_clamp_high[2] sky130_fd_pr__res_generic_m3 w=11 l=0.25
R8 vssa1 io_clamp_high[1] sky130_fd_pr__res_generic_m3 w=11 l=0.25
R9 vssa1 io_clamp_low[2] sky130_fd_pr__res_generic_m3 w=11 l=0.25

.end

